US06951879B2
100 mg (0.28 mmol) ) 4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yl]-but-3-yn-1-ol in 2 ml CH2Cl2 were treated with 53 μl (0.31 mmol) Huenig's base at 51 μl (0.31 mmol) trifluoromethane sulfonic acid anhydride at −15° C. The solution was stirred at that temperature for 1 h, additional 10 μl trifluoromethane sulfonic acid anhydride were added and stirring continued for 1 h. 48 μl (0.28 mmol) Huenig's base and 75 μl (0.84 mmol) N-(2-Methoxyethyl)methylamine were added at −15° C. The solution was warmed to RT and stirred for 1.5 h. The solution was diluted with CH2Cl2 and washed with Na2CO3 solution, brine and dried with Na2SO4. Column chromatography gave 66.1 mg (56%) {4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yl]-but-3-ynyl}-(2-methoxy-ethyl)-methyl-amine as brown oil, MS: 429 (MH+, 1Br).

reactant | 4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yl]-but-3-yn-1-ol | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCCO | C17H12BrNOS
reactant | Huenig's base | 0.31 mmol, 53 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | trifluoromethane sulfonic acid anhydride | 0.31 mmol, 51 μl | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | trifluoromethane sulfonic acid anhydride | 10 μl | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Huenig's base | 0.28 mmol, 48 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | N-(2-Methoxyethyl)methylamine | 0.84 mmol, 75 μl | COCCNC | C4H11NO
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | {4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yl]-but-3-ynyl}-(2-methoxy-ethyl)-methyl-amine | 66.1 mg, 56% | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCCN(C)CCOC | C21H21BrN2OS
